US04460580
70 g of 2,3-dihydro-2,2-dimethyl-6-hydroxy-4H-1,3-benzoxazin-4-one in 400 ml of acetonitrile are stirred with 100 g of potassium carbonate and 32 ml of chloroacetone for 30 hours under reflux. After adding a further 3.2 ml of chloroacetone, the reaction mixture is heated for a further 15-20 hours. The reaction mixture is filtered whilst it is still warm, the residue is washed thoroughly with acetone and the combined filtrate is evaporated. The crystalline residue is recrystallised from toluene and yields 2,3-dihydro-2,2-dimethyl-6-(2-oxo-propoxy)-4H-1,3-benzoxazin-4-one with a melting point of 125°-126°.

reactant | 2,3-dihydro-2,2-dimethyl-6-hydroxy-4H-1,3-benzoxazin-4-one | 70 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)O)C | C10H11NO3
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 32 ml | ClCC(C)=O | C3H5ClO
reactant | chloroacetone | 3.2 ml | ClCC(C)=O | C3H5ClO
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 2,3-dihydro-2,2-dimethyl-6-(2-oxo-propoxy)-4H-1,3-benzoxazin-4-one | CC1(OC2=C(C(N1)=O)C=C(C=C2)OCC(C)=O)C | C13H15NO4
